US09119868B2
A solution of 6-(N-(3-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid (110 mg, 0.171 mmol) and sodium periodate (183 mg, 0.856 mmol) in THF (14 mL) and aqueous 1N HCl (7 mL) was stirred at RT for 4 h then water and EtOAc were added. The organic layer was separated, washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by Reverse Phase HPLC (water/ACN+0.1% formic acid) to give 6-(N-(4-borono-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid (24 mg, 0.041 mmol, 24% yield) as a white powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.31 (br. s., 1H), 8.33 (s, 2H), 8.16 (s, 1H), 8.03 (d, 2H), 7.52-7.70 (m, 3H), 7.37-7.48 (m, 2H), 7.34 (dd, 1H), 3.40 (s, 3H), 2.09-2.22 (m, 1H), 0.64-1.11 (m, 3H), 0.47 (br. s., 1H). LCMS (m/z, ES+)=558.1 (M−H).

reactant | 6-(N-(3-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid | 0.171 mmol, 110 mg | ClC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C=C1C1CC1 | C31H30BCl2NO7S
reactant | sodium periodate | 0.856 mmol, 183 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | HCl | 1N, 7 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(N-(4-borono-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid | 0.041 mmol, 24 mg, 24% yield | B(O)(O)C1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C=C1C1CC1)Cl | C25H20BCl2NO7S
